Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
glyburide / Glucophage / Lexapro / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Shortness of breath s/p TAVR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ year-old MALE with PMHx signif for Afib (not 
on anticoagulation in the past- he had been trialed on Coumadin 
but had difficulty managing his dosing and INRs and was trialed 
on Eliquis but had bleeding and a significant increase in his 
creatinine after which it was discontinued, now on Warfarin s/p 
TAVR, CKD StageIII-IV, Insulin-dependent DM type II, moderate 
COPD and recent diagnosis of severe AS with multiple recent 
hospitalizations for decompensated heart failure (Last EF ___ 
on TEE on ___, now s/p TAVR on ___ who is presenting as a 
transfer for SOB. Per clinic notes he is ___ lbs up and per the 
patient has not been able to take his 60 mg of daily Lasix as 
prescribed. He notes increased fatigue, leg swelling, but denies 
CP, fever/chills.  

Diet: Soup, PB&Js, cereal/milk, black coffee. 
Med Compliance: States he was not getting his Lasix while at 
rehab. Last discharge summary from here instructs him to HOLD 
his 60 mg of Lasix daily until he saw his cardiologist. Of note, 
he had hyperkalemia to 6.2 at rehab on ___ and per his 
cardiology team, his rehab was told to restart his Lasix at 40 
mg daily.  

In the ED initial vitals were: 97.5 125 122/79 22 100% Nasal 
Cannula 

EKG: afib @ 128, NA/NI, LVH, lateral twi  

Labs/studies notable for: BNP of 23K, WNL LFTs, H&H of 
10.9/34.5, platelets of 94, no leukocytosis, BUN/CR of 32/1.8, 
INR of 2.7, PTT 43, lactate of 1.4, UA with 27 RBC 

Patient was given: 60 IV Lasix and 37.5 mg PO metoprolol XL for 
a. fib 

Vitals on transfer: 109 126/82 20 99% Nasal Cannula  

On the floor he is using  his accessory muscles to breath but 
says he is comfortable on 4L. Denies CP, palpitations, 
orthopnea, or PND.   
 
Past Medical History:
Severe/critical AS
Acute on chronic diastolic/systolic HF with last EF ___
CKD Stage III-IV (GFR 34)
AFIB-no anticoagulation
Bicuspid aortic valve
COPD, moderate
Pulmonary HTN
HTN
Diabetes Type 2, on insulin
Hyperlipidemia
Pancreatitis
Anemia
Kidney stones
C diff colitis- Distant history of C diff colitis. 
BPH
macular degeneration
Urethral stricture:  Has a congenital stricture that requires 
small-bore foley catheter.
- Per urology:  Try ___ for ONE PASS.  If unsuccessful, 
call urology for placement of pediatric catheter.
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
==============
ADMISSION EXAM
==============
VS: 97.7 136/76 106 20 100 4L 62.1kg (136lbs)  
GENERAL:in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP to ear at 45 degrees.  
CARDIAC: tachycardic irregularly irregular.  
LUNGS: bibasilar crackles,mild expiratory wheeze, decreased 
throughout.   
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: 3+ pitting edema to thighs. Slightly cool feet, 
ankles.    
SKIN: No stasis dermatitis

==============
DISCHARGE EXAM
==============
VS: T 97.3-98.1 BP 90-130/45-61 HR 90-106 RR ___ O2 95-97% on 
RA
 Weight 62.1 kg --> 58.3->57.6-->56.7-->54.1-->54.8 
___ 56.7-> 56.9-> 55.4-> 54.3 -> 53.1 -> 52.9 -> 52.6 
-> 52.8 kg
 I/O: 180/500+ // 1703/1375

GENERAL:  Elderly Caucasian gentleman laying back in bed, 
smiling and cooperative with exam.  
HEENT:  NCAT. Sclera anicteric.  
NECK:  JVP measured at 8-9cm H2O when laying at 30 degrees in 
bed.
CARDIAC:  Irregularly irregular, normal rate.  No 
murmurs/gallops/rubs auscultated.  
LUNGS: Crackles mildly improved to ___ of the way up lung fields 
bilaterally.
ABDOMEN: Soft, NTND. No rebound or guarding.
EXTREMITIES: warm, no pitting edema of lower extremities. +2 
posterior tibialis pulses bilaterally.  
 
Pertinent Results:
=============
ADMISSION LABS
=============
___ 08:33PM BLOOD WBC-5.2 RBC-3.35* Hgb-10.9* Hct-34.5* 
MCV-103*# MCH-32.5* MCHC-31.6*# RDW-17.7* RDWSD-66.4* Plt Ct-94*
___ 08:33PM BLOOD Neuts-65.5 Lymphs-13.7* Monos-13.2* 
Eos-6.4 Baso-0.8 Im ___ AbsNeut-3.39 AbsLymp-0.71* 
AbsMono-0.68 AbsEos-0.33 AbsBaso-0.04
___ 08:33PM BLOOD Plt Smr-LOW Plt Ct-94*
___ 08:43PM BLOOD ___ PTT-43.6* ___
___ 08:33PM BLOOD ALT-9 AST-17 AlkPhos-59 TotBili-0.6
___ 08:33PM BLOOD ___
___ 08:33PM BLOOD cTropnT-0.02*
___ 08:33PM BLOOD Albumin-3.8
___ 08:33PM BLOOD VitB12-1341*
___ 08:33PM BLOOD TSH-4.7*

================
PERTINENT IMAGING
================
CXR (___):  Moderate to large left and small right pleural 
effusions are increased from
___.
ECHOCARDIOGRAM (___):  
The left atrial volume index is severely increased. The right 
atrium is moderately dilated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. Left ventricular wall thicknesses and cavity size are 
normal with severe global hypokinesis (LVEF = ___. Intrinsic 
left ventricular systolic function is likely more depressed 
given the severity of mitral regurgitation. There is no 
ventricular septal defect. The right ventricular cavity is 
mildly dilated with moderate global free wall hypokinesis. 
[Intrinsic right ventricular systolic function is likely more 
depressed given the severity of tricuspid regurgitation.] An 
Evolut aortic valve bioprosthesis is present and well-seated. 
The transaortic gradient is normal for this prosthesis. Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Moderate to severe (3+) mitral regurgitation 
is seen. Severe [4+] tricuspid regurgitation is seen. There is 
severe pulmonary artery systolic hypertension. [In the setting 
of at least moderate to severe tricuspid regurgitation, the 
estimated pulmonary artery systolic pressure may be 
underestimated due to a very high right atrial pressure.] There 
is a very small circumferential pericardial effusion. There is a 
prominent left pleural effusion. 

 IMPRESSION: Normal left ventricular cavity size with severe 
global hypokinesis. Moderate to severe mitral regurgitation. 
Severe tricuspid regurgitation. Well-seated TAVR with mild 
aortic regurgitation. Severe pulmonary artery systolic 
hypertension. 

 Compared with the prior study (images reviewed) of ___, 
global left ventricular systlic function is now reduced and the 
severity of mitral regurgitation and tricuspid regurgitation 
have increased. .The right ventricular cavity is also now 
dilated. 
CXR (___):  Small left pleural effusion, minimally 
decreased.  Left basilar opacification,
mildly improved.  Improved right pleural effusion.  Mildly 
improved pulmonary
vascularity, basilar opacity.  Stable postoperative changes.  
Right PICC line.

=============
DISCHARGE LABS
=============
___ 04:21AM BLOOD WBC-5.3 RBC-3.00* Hgb-9.7* Hct-29.7* 
MCV-99* MCH-32.3* MCHC-32.7 RDW-16.1* RDWSD-58.7* Plt ___
___ 04:21AM BLOOD ___ PTT-37.6* ___
___ 03:15PM BLOOD Glucose-96 UreaN-38* Creat-1.5* Na-132* 
K-4.4 Cl-95* HCO3-29 AnGap-___ hx AFib (warfarin), CKD III-IV, T2DM, mod COPD, recent 
diagnosis of severe AS, now s/p recent admission for TAVR. Here 
with acute on chronic sCHF exacerbation in stg of missed 
diuretic doses at rehab.

============
ACTIVE ISSUES
============ 

# sCHF, ACUTE ON CHRONIC:  NYHA II at baseline, III during acute 
exacerbation.  Exacerbated due to missed diuretics at rehab.  EF 
previously ___, but improved to 43% post TAVR.  Repeat ECHO 
showed EF 25%-30%.  Of note, pre-TAVR cath with clean cors.  He 
briefly required a CCU stay for hypotension down to SBP 60's 
with a WBC of 12, concerning for septic shock; as no clear 
source was identified and Pt's pressures improved, he returned 
to the floor and continued with diuresis.  
- Preload: Torsemide 40 for goal even on ___.
- Neurohormonal blockade: Held Toprol for borderline BPs
- Afterload: Lisinopril 2.5mg daily
- Contractility:  Digoxin 0.125 daily, level on ___
- Device: none
- Discharge weight:  52.8kg

# ATRIAL FIBRILLATION:  CHADSVASC2 of 5.  
- Anticoagulation: Warfarin 2.5mg daily, goal INR ___.
- Rate control: Metoprolol held as above in setting of 
persistent weakness and orthostasis.

=======================
CHRONIC/RESOLVED ISSUES
=======================
# L FOOT HEMATOMA:  Initially concerning for foot abscess.  ACS 
consulted, ultrasound; based on u/s most likely hematoma.  No 
indication for drainage.  

# THROMBOCYTOPENIA:  Patient with persistent thrombocytopenia in 
our system, stable
- check smear
- outpatient heme follow up

# CKD:  Stage III-IV, baseline CR 2.0, currently 1.7. 
-Renally dosed meds.

# COPD
- Home albuterol inhaler
- Held home tiotropium / ___ inhaler (nonformulary); can resume 
as outpatient.  Given equivalent tiotropium INH daily + 
salmeterol INH q12h while in house, discontinued.

# T2DM: Pt unaware of home insulin regimen
- Medium ISS.  
- A1c 6.7%.

# Urethral stricture:  Has a congenital stricture that requires 
small-bore foley catheter.
- Per urology:  Try ___ for ONE PASS.  If unsuccessful, 
requires calling urology for placement of pediatric catheter.

# HLD: 
- Home simvastatin

# BPH: 
- Home finasteride.
- Home tamsulosin

# Deconditioning:
- ___ consult to help ambulate.

=================
TRANSITIONAL ISSUES
=================
# CODE: FULL 
# CONTACT:
Name of health care proxy: ___
Relationship: Daughter
Phone number: ___  

# Pt to have a digoxin level checked on ___ or ___, to assess 
therapeutic adequacy.
# Pt has a congenital urethral stricture that necessitates 
urology placing any foley catheters.
# Medication changes:  Discontinued metoprolol.  Added digoxin.  
Increased warfarin to 2.5mg daily.  Discontinued furosemide, 
replaced with 40mg torsemide daily.
# Discharge weight:  52.8kg
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
2. Allopurinol ___ mg PO DAILY 
3. Calcium Carbonate 500 mg PO TID 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Finasteride 5 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Simvastatin 20 mg PO QPM 
9. Tamsulosin 0.4 mg PO QHS 
10. Aspirin 81 mg PO DAILY 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
12. tiotropium-olodaterol 2.5-2.5 mcg/actuation inhalation DAILY 

13. Vitamin D ___ UNIT PO DAILY 
14. Metoprolol Succinate XL 37.5 mg PO BID 
15. Levemir (insulin detemir) 2 units subcutaneous QHS:PRN 
16. Warfarin 1 mg PO DAILY16 
17. Furosemide 60 mg PO DAILY 

 
Discharge Medications:
1.  Digoxin 0.125 mg PO DAILY 
RX *digoxin 125 mcg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
4.  Warfarin 2.5 mg PO DAILY16 
RX *warfarin 1 mg 2.5 tablet(s) by mouth daily Disp #*100 Tablet 
Refills:*0 
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
7.  Allopurinol ___ mg PO DAILY  
8.  Aspirin 81 mg PO DAILY  
9.  Calcium Carbonate 500 mg PO TID  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Finasteride 5 mg PO DAILY  
12.  Levemir (insulin detemir) 2 units subcutaneous QHS:PRN  
13.  Multivitamins 1 TAB PO DAILY  
14.  Pantoprazole 40 mg PO Q24H  
15.  Simvastatin 20 mg PO QPM  
16.  Tamsulosin 0.4 mg PO QHS  
17.  tiotropium-olodaterol 2.5-2.5 mcg/actuation inhalation 
DAILY  
18.  Vitamin D ___ UNIT PO DAILY  
19.Outpatient Lab Work
I48.2
INR check ___
Please fax results to ___
Fax: ___
Phone: ___
INR < 1.5 or > 3.5 should be verbally communicated.
20.Outpatient Lab Work
I50.23
Chemistry 10, Digoxin level

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Systolic congestive heart failure, acute-on-chronic exacerbation

SECONDARY:
Aortic stenosis, status post TAVR
Diabetes mellitus
Benign prostatic hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were seen in our hospital because you were feeling short of 
breath and weak.  You told us that you had missed several doses 
of your water pill (torsemide) while at a rehab facility after 
your recent valve replacement.  It looked like you had 
accumulated some extra water, so we helped to remove it with 
additional doses of water pill both by mouth and through the IV. 
 By the time we discharged you, you appeared to be at a new dry 
weight of 52.8kg.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___